data/polar.json
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N:3]1([c:8]2[c:34]([CH3:10])[cH:30][c:20]([CH3:17])[cH:33][c:37]2[CH3:13])[CH:29]=[CH:28][N:4]([c:9]2[c:35]([CH3:11])[cH:31][c:21]([CH3:18])[cH:32][c:36]2[CH3:12])[C:40]1=[CH2:25].[O-:1][n+:7]1[o:38][n:22][c:14]2[c:16]3[n+:6]([O-:23])[o:2][n:26][c:19]3[c:24]([N+:5]([O-:27])=[O:39])[cH:15][c:41]12>>[O-:1][n+:7]1[o:38][n:22][c:14]2[c:41]1[CH:15]([CH2:25][c:40]1[n+:3](-[c:8]3[c:34]([CH3:10])[cH:30][c:20]([CH3:17])[cH:33][c:37]3[CH3:13])[cH:29][cH:28][n:4]1-[c:9]1[c:35]([CH3:11])[cH:31][c:21]([CH3:18])[cH:32][c:36]1[CH3:12])[C:24](=[N+:5]([O-:27])[O-:39])[c:19]1[c:16]-2[n+:6]([O-:23])[o:2][n:26]1", "epd": [["LP-/Pi+", [3], [40, 3]], ["Pi-/Sigma+", [25, 40], [25, 15]], ["Pi-/Pi+", [15, 24], [24, 5]], ["Pi-/LP+", [5, 39], [39]]]}
{"reaction_name": "Dearomatizing capture of a tropylium / arenium ion", "rsmi": "[cH:1]1[cH:2][cH:11][cH:15][cH+:9][cH:14][cH:10]1.[cH:3]1[cH:5][c:6]2[c:16]([cH:8][cH:17]1)[CH:13]=[CH:4][CH:12]2[Li:7]>>[CH:1]1=[CH:2][CH:11]=[CH:15][CH:9]([CH:12]2[CH:4]=[CH:13][c:16]3[c:6]2[cH:5][cH:3][cH:17][cH:8]3)[CH:14]=[CH:10]1.[Li+:7]", "epd": [["Sigma-/Sigma+", [12, 7], [12, 9]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:3]([CH:12]1[N+:20](=[CH:7][CH:33]=[CH:13][c:26]2[cH:8][cH:21][cH:6][cH:22][cH:9]2)[CH:17]([CH2:34][c:31]2[cH:36][cH:14][cH:23][cH:15][cH:37]2)[C:25](=[O:10])[N:32]1[CH3:24])([CH3:28])([CH3:29])[CH3:30].[O-:1][C:27](=[CH:2][c:11]1[cH:18][cH:4][cH:38][cH:5][cH:19]1)[O:35][CH2:39][CH3:16]>>[O:1]=[C:27]([CH:2]([c:11]1[cH:18][cH:4][cH:38][cH:5][cH:19]1)[CH:13]([c:26]1[cH:8][cH:21][cH:6][cH:22][cH:9]1)[CH:33]=[CH:7][N:20]1[CH:12]([C:3]([CH3:28])([CH3:29])[CH3:30])[N:32]([CH3:24])[C:25](=[O:10])[CH:17]1[CH2:34][c:31]1[cH:36][cH:14][cH:23][cH:15][cH:37]1)[O:35][CH2:39][CH3:16]", "epd": [["LP-/Pi+", [1], [27, 1]], ["Pi-/Sigma+", [2, 27], [2, 13]], ["Pi-/Pi+", [13, 33], [33, 7]], ["Pi-/LP+", [7, 20], [20]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[O-:1][n+:8]1[o:24][n:17][c:13]2[c:15]3[n+:7]([O-:18])[o:4][n:20][c:16]3[c:19]([N+:6]([O-:22])=[O:25])[cH:14][c:28]12.[O:2]=[S:9](=[O:3])([CH-:12][Br:23])[c:21]1[cH:26][cH:10][cH:5][cH:11][cH:27]1>>[O-:1][n+:8]1[o:24][n:17][c:13]2[c:28]1[CH:14]([CH:12]([S:9](=[O:2])(=[O:3])[c:21]1[cH:26][cH:10][cH:5][cH:11][cH:27]1)[Br:23])[C:19](=[N+:6]([O-:22])[O-:25])[c:16]1[c:15]-2[n+:7]([O-:18])[o:4][n:20]1", "epd": [["LP-/Sigma+", [12], [12, 14]], ["Pi-/Pi+", [14, 19], [19, 6]], ["Pi-/LP+", [6, 25], [25]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[C:1](#[N:12])[C:35]([C:2]#[N:13])=[CH:3][c:36]1[cH:8][cH:31][cH:37][cH:32][cH:9]1.[CH2:4]1[N:16]2[CH2:5][CH2:20][N:7]([CH2:39][c:11]3[cH:22][cH:26][cH:34][cH:27][cH:23]3)[c:30]3[c:14]2[c:29]([cH:17][n:15][cH:18]3)[N:6]([CH2:38][c:10]2[cH:21][cH:25][cH:33][cH:28][cH:24]2)[CH2:19]1>>[C:1](=[N-:12])=[C:35]([C:2]#[N:13])[CH:3]([N:15]1[CH:17]=[C:29]2[N:6]([CH2:38][c:10]3[cH:21][cH:25][cH:33][cH:28][cH:24]3)[CH2:19][CH2:4][N+:16]3=[C:14]2[C:30](=[CH:18]1)[N:7]([CH2:39][c:11]1[cH:22][cH:26][cH:34][cH:27][cH:23]1)[CH2:20][CH2:5]3)[c:36]1[cH:8][cH:31][cH:37][cH:32][cH:9]1", "epd": [["LP-/Pi+", [16], [14, 16]], ["Pi-/Pi+", [29, 14], [17, 29]], ["Pi-/Sigma+", [15, 17], [15, 3]], ["Pi-/Pi+", [3, 35], [35, 1]], ["Pi-/LP+", [1, 12], [12]]]}
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH:2]1=[CH:5][c:7]2[cH:15][cH:14][cH:23][cH:8][c:20]2[CH:25]1[Na:22].[O:1]([S:6][C:21]([F:11])([F:12])[F:13])[C:9]([CH3:18])([CH3:19])[c:24]1[cH:3][cH:16][cH:10][cH:17][cH:4]1>>[CH:2]1=[CH:5][c:7]2[cH:15][cH:14][cH:23][cH:8][c:20]2[CH:25]1[S:6][C:21]([F:11])([F:12])[F:13].[Na+:22].[O-:1][C:9]([CH3:18])([CH3:19])[c:24]1[cH:3][cH:16][cH:10][cH:17][cH:4]1", "epd": [["Sigma-/Sigma+", [25, 22], [25, 6]], ["Sigma-/LP+", [6, 1], [1]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N+:1]([c:11]1[cH:2][n:9][c:13]2[c:15]([n+:6]([O-:5])[o:12][n:21]2)[cH:16]1)(=[O:17])[O-:19].[cH:3]1[cH:7][c:8]2[c:22]([cH:14][cH:23]1)[CH:20]=[CH:4][CH:18]2[Li:10]>>[Li+:10].[N+:1](=[C:11]1[CH:2]=[N:9][c:13]2[c:15]([n+:6]([O-:5])[o:12][n:21]2)[CH:16]1[CH:18]1[CH:4]=[CH:20][c:22]2[c:8]1[cH:7][cH:3][cH:23][cH:14]2)([O-:17])[O-:19]", "epd": [["Sigma-/Sigma+", [18, 10], [18, 16]], ["Pi-/Pi+", [16, 11], [11, 1]], ["Pi-/LP+", [1, 17], [17]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[Cl-:2].[cH:1]1[cH:3][cH:8][c:7]([N+:5](=[CH2:6])[CH3:10])[cH:9][cH:4]1>>[cH:1]1[cH:3][cH:8][c:7]([N:5]([CH2:6][Cl:2])[CH3:10])[cH:9][cH:4]1", "epd": [["LP-/Sigma+", [2], [2, 6]], ["Pi-/LP+", [6, 5], [5]]]}
{"reaction_name": "β-Amino alcohol fragmentation", "rsmi": "[O-:1][CH:7]([CH2:3][CH2:4][Cl:2])[CH2:6][NH2:5]>>[CH2:3]=[CH2:4].[Cl-:2].[O:1]=[CH:7][CH2:6][NH2:5]", "epd": [["Sigma-/Pi+", [3, 7], [3, 4]], ["Sigma-/LP+", [2, 4], [2]], ["LP-/Pi+", [1], [1, 7]]]}
